US08957070B2
N-Methyl-N-(2-{5-[2-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)ethyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
A mixture of N-{2-[5-(3-hydrazino-3-oxopropyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.29 g), 1,1′-carbonylbis-1H-imidazole (0.22 g) and N,N-dimethylacetamide (15 mL) was stirred at room temperature for 2 hr. Water was added to the reaction mixture and the resulting crystals were collected by filtration, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (0.20 g, yield 65%) was obtained as yellow crystals from a fraction eluted with tetrahydrofuran-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate. melting point 255-256° C.

reactant | N-{2-[5-(3-hydrazino-3-oxopropyl)-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.29 g | N(N)C(CCC1=CN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C)=O | C19H19N5O3S3
reactant | 1,1′-carbonylbis-1H-imidazole | 0.22 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | N-Methyl-N-(2-{5-[2-(5-oxo-4,5-dihydro-1,3,4-oxadiazol-2-yl)ethyl]-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 0.20 g, yield 65% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(=CN1)CCC=1OC(NN1)=O | C20H17N5O4S3
